US04886794
5-(2-Chloroethyl)-3-(1-methylethyl)-2-oxazolidinone
To a cold (ice bath) solution of 98.5 g (10 mole) of phosgene in 500 ml of methylene chloride was added dropwise a solution of 129.2 g (1.0 mole) of 1-isopropyl-3-pyrrolidinol in 250 ml of methylene chloride at such a rate that the temperature did not exceed 10° C. After addition was complete, the mixture was stirred in the cold for 1 hr and then treated dropwise with 140 ml (101 g, 1.0 mole) of triethylamine at such a rate that the temperature did not exceed 25° C. The mixture was stirred at ambient temperature for 3 hr and then treated with 500 ml of 1N hydrochloric acid solution. The layers were separated and the organic layer was washed successively with 500 ml of a 1N hydrochloric acid solution, 500 ml of a 4% sodium hydroxide solution and 500 ml of brine, dried over sodium sulfate and concentrated under reduced pressure to give a brown oil as residue. The oil was subjected to vacuum distillation to yield 134.9 g (70%) of yellow oil, b.p. 110° C. at 0.2 mm.

reactant | phosgene | 10 mole, 98.5 g | C(=O)(Cl)Cl | CCl2O
reactant | 1-isopropyl-3-pyrrolidinol | 1.0 mole, 129.2 g | C(C)(C)N1CC(CC1)O | C7H15NO
reactant | triethylamine | 1.0 mole, 140 ml, 101 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N, 500 ml | Cl | ClH
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 5-(2-Chloroethyl)-3-(1-methylethyl)-2-oxazolidinone | 134.9 g, 70% | ClCCC1CN(C(O1)=O)C(C)C | C8H14ClNO2
